US04713387
In 10 ml of methylene chloride was dissolved 500 mg of 3-[4-(pyridin-3-ylmethyl)phenyl]propanol, and 0.80 ml of thionyl chloride was added to the resulting solution with ice-cooling, after which the resulting mixture was subjected to reaction under reflux for one hour. The solvent and the excessive thionyl chloride were removed by distillation under reduced pressure, to obtain 3-[4-(pyridin-3-ylmethyl)phenyl]propyl chloride hydrochloride as the residue. This residue was dissolved in 4 ml of dimethyl sulfoxide.

reactant | 3-[4-(pyridin-3-ylmethyl)phenyl]propanol | 500 mg | N1=CC(=CC=C1)CC1=CC=C(C=C1)CCCO | C15H17NO
reactant | thionyl chloride | 0.80 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-[4-(pyridin-3-ylmethyl)phenyl]propyl chloride hydrochloride | Cl.N1=CC(=CC=C1)CC1=CC=C(C=C1)CCCCl | InChI=1S/C15H16ClN.ClH/c16-9-1-3-13-5-7-14(8-6-13)11-15-4-2-10-17-12-15;/h2,4-8,10,12H,1,3,9,11H2;1H
